US05026855
(+)-2-methyl-3-hydroxy-4-tosyloxymethyl-5-[4-chloro-α-hydroxybenzyl]pyridine
0.24 g (0.66 mmole) of (+)-2-methyl-3-hydroxy-4- hydroxymethyl-5-[4-chloro-α-acetoxybenzyl]pyridine are poured into a 25 ml round bottomed flask and dissolved in 10 ml of methylene chloride. 190 mg (1 mmole) of p-toluene sulphonyl chloride and 75 mg (1 mmole) of pyridine are then added. The reaction mixture is stirred at room temperature for 18 hours the solvent is then removed under reduced pressure. 5 ml of methanolic ammonia are added and the mixture is stirred at room temperature for 2 hours. The solvent is removed under vacuum, dissolved again in 1 ml of methanol and purified by silica TLC. 170 mg of the title compound were obtained as an off-white solid.

reactant | (+)-2-methyl-3-hydroxy-4- hydroxymethyl-5-[4-chloro-α-acetoxybenzyl]pyridine | 0.66 mmole, 0.24 g | CC1=NC=C(C(=C1O)CO)C(C1=CC=C(C=C1)Cl)OC(C)=O | C16H16ClNO4
reactant | p-toluene sulphonyl chloride | 1 mmole, 190 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 1 mmole, 75 mg | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (+)-2-methyl-3-hydroxy-4-tosyloxymethyl-5-[4-chloro-α-hydroxybenzyl]pyridine | 170 mg | CC1=NC=C(C(=C1O)COS(=O)(=O)C1=CC=C(C)C=C1)C(C1=CC=C(C=C1)Cl)O | C21H20ClNO5S
